US07709482B2
Alternatively, a solution of 4a,5,6,7-tetrahydro-2H-benzo[6,7]cyclohepta[c]pyridazin-3(4H)-one (2.31 g, 10.74 mmol), sodium m-nitrobenzenesulfonate (2.48 g, 11 mmol), sodium hydroxide (1.86 g, 46.5 mmol) in water (80 mL) was heated under reflux for 1.5 h. The solution was cooled to ambient temperature, and then acidified with concentrated hydrochloric acid. The solid which precipitated was filtered off, washed with water and crystallized from ethanol to give 3-oxo-6,7-dihydro-5H-benzo[6,7]cyclohepta[1,2-c]pyridazine as tan crystals, 1.46 g; 1H NMR (DMSO-d6, 300 MHz) 13.04 (s, 1H), 7.25-7.45 (m, 4H), 6.78 (s, 1H), 2.49 (m, 2H), 2.35 (m, 2H), 2.04 (m, 2H) ppm; MS (ES) 213 (M+H).

reactant | 4a,5,6,7-tetrahydro-2H-benzo[6,7]cyclohepta[c]pyridazin-3(4H)-one | 10.74 mmol, 2.31 g | N=1NC(CC2C1C1=C(CCC2)C=CC=C1)=O | C13H14N2O
reactant | sodium m-nitrobenzenesulfonate | 11 mmol, 2.48 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | sodium hydroxide | 46.5 mmol, 1.86 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 80 mL | O | H2O
product | 3-oxo-6,7-dihydro-5H-benzo[6,7]cyclohepta[1,2-c]pyridazine | O=C1C=C2C(=NN1)C1=C(CCC2)C=CC=C1 | C13H12N2O
